US08703797B2
4,5,8-Trimethylquinolin-2-ol:
A 5.50 g (26.8 mmol) sample of N-(2,5-dimethylphenyl)-3-oxobutanamide in 10.0 mL of H2SO4 was microwaved at 140° C. for 5 minutes. After the reaction was cooled to room temperature it was quenched into ice-H2O. The resulting mixture was basified with saturated NaHCO3. The resulting mixture was extracted with CH2Cl2 (3×20 mL) and the combined organic extracts were washed with H2O (1×15 mL), brine (lx 20 mL), dried over MgSO4 and concentrated to give the desired title compound (1.4 g, 28%). Spectroscopic data: 1H NMR (300 MHz, CDCl3) δ ppm 2.41 (s, 3 H) 2.69 (d, J=1.17 Hz, 3 H) 2.73 (s, 3 H) 6.48 (s, 1 H) 6.90 (d, J=7.33 Hz, 1 H) 7.19 (d, J=7.62 Hz, 1 H) 8.87 (br. s., 1 H).

reactant | N-(2,5-dimethylphenyl)-3-oxobutanamide | CC1=C(C=C(C=C1)C)NC(CC(C)=O)=O | C12H15NO2
solvent | H2SO4 | 10.0 mL | OS(=O)(=O)O | H2O4S
product | 4,5,8-Trimethylquinolin-2-ol | 1.4 g, 28% | CC1=CC(=NC2=C(C=CC(=C12)C)C)O | C12H13NO
